US03948996
To 0.6 g. of 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoic acid in 10 ml. of dry benzene is added 0.23 ml. of oxalyl chloride at room temperature with stirring. After 2 hours, isopropanol (2ml.) is added and the mixture allowed to stand at room temperature for about 2 hours. Ether and saturated sodium bicarbonate is added and the organic phase separated. The organic phase is washed with aqueous sodium bicarbonate, saturated sodium chloride, dried over calcium sulfate and evaporated to yield isopropyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoic acid | CSC(CCCC(CC=CC(=CC(=O)O)C)C)(C)C | C16H28O2S
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Ether | CCOCC | C4H10O
solvent | isopropanol | 2ml | C(C)(C)O | C3H8O
product | isopropyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate | CSC(CCCC(CC=CC(=CC(=O)OC(C)C)C)C)(C)C | C19H34O2S
